US08912329B2
According to the method of W. Steglich and P. Gruber (Angew. Chem., 1971, 83, 727-728), 4-oxo-5-(pyridin-2-yl)pentanoic acid is synthesized from valine and 2-(pyridin-2-yl)-acetic acid.

reactant | valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | 2-(pyridin-2-yl)-acetic acid | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
product | 4-oxo-5-(pyridin-2-yl)pentanoic acid | O=C(CCC(=O)O)CC1=NC=CC=C1 | C10H11NO3
